US05472949
To a solution of 2',3'-di-O-acetyl-5'-deoxy-5-fluoro-N4 -(propoxycarbonyl)cytidine (2.5 g) in CH2Cl2 (17 ml) was added dropwise 1N NaOH (17 ml) with stirring and cooling with ice bath. After stirring for 1 hr at 0° C., MeOH (0.9 ml) was added to the mixture. And pH of the reaction mixture was adjusted to 6 by the addition of concentrated HCl and partitioned. The aqueous layer was extracted with a mixed solvent of CH2Cl2 /MeOH(95/5) successively (40 ml×10). The combined organic layers were dried over anhydrous sodium sulfate and filtered. The solution was evaporated, and the residue was crystallized from ethyl acetate to give 5'-deoxy-5-fluoro-N4 -(propoxycarbonyl)cytidine as colorless crystals (1.6 g, y. 79.8%): mp. 125°-126.5° C.; EI-MS m/z 331 (M+).

reactant | 2',3'-di-O-acetyl-5'-deoxy-5-fluoro-N4 -(propoxycarbonyl)cytidine | 2.5 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)N=C(NC(=O)OCCC)C(=C1)F | C17H22FN3O8
reactant | NaOH | 1N, 17 ml | [OH-].[Na+]
reactant | MeOH | 0.9 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 17 ml | C(Cl)Cl | CH2Cl2
product | 5'-deoxy-5-fluoro-N4 -(propoxycarbonyl)cytidine | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)NC(=O)OCCC | C13H18FN3O6
